US03935245
10.0 g. of 3-hydroxy-6β-ethoxycarbonylmethyl-1,3,5(10)-estratrien-17-one -- produced in accordance with A2 -- is acetylated with 20 ml. of acetic anhydride in 20 ml. of pyridine for 20 hours at room temperature. After precipitation into ice water, filtration, and taking up the precipitate in methylene chloride, the reaction product is dried and evaporated, thus obtaining 11.8 g. of 3-acetoxy-6β-ethoxycarbonylmethyl-1,3,5(10) estratrien-17-one, which is heated to the boiling point with 140 ml. of isopropenyl acetate in the presence of 1.4 g. of p-toluenesulfonic acid and then subjected to a slow distillation. The cooled reaction product is diluted with methylene chloride and washed with sodium bicarbonate solution and water, dried, and evaporated, thus resulting in 13.3 g. of a crude product. After chromatography on silica gel, pure 3,17-diacetoxy-6β-ethoxycarbonylmethyl-1,3,5(10),16-estratetraene is obtained as an almost colorless oil.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-acetoxy-6β-ethoxycarbonylmethyl-1,3,5(10) estratrien-17-one | C(C)(=O)OC1=CC=2[C@@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CC(=O)OCC | C24H30O5
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,17-diacetoxy-6β-ethoxycarbonylmethyl-1,3,5(10),16-estratetraene | C(C)(=O)OC1=CC=2[C@@H](C[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C2C=C1)OC(C)=O)CC(=O)OCC | C26H32O6
